US06960575B2
Methyl 2-(2-oxobutylthio)acetate (Reference compound No. 36-1)
Triethylamine (28.3 ml) is added to a solution of methyl 2-(2-hydroxybutylthio)acetate (6.00 g, Reference compound No. 35-1) in dimethyl sulfoxide (180 ml). A sulfur trioxide-pyridine complex (20.0 g) is added to the mixture, and the whole is stirred for one hour. Water is added to the reaction mixture, and the whole is stirred for 20 minutes and extracted with ethyl acetate. The extract is washed with water, 1 N hydrochloric acid and saturated brine successively and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled reference compound (5.93 g).

reactant | Triethylamine | 28.3 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 2-(2-hydroxybutylthio)acetate | OC(CSCC(=O)OC)CC | C7H14O3S
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 180 ml | CS(=O)C | C2H6OS
product | Methyl 2-(2-oxobutylthio)acetate | 5.93 g | O=C(CSCC(=O)OC)CC | C7H12O3S
